### PR TITLE
feat(Combinatorics/SimpleGraph/Hasse): more properties of Hasse graphs of linear orders

### PR DESCRIPTION
**Pull request by Formalistic03**
- two forms of an intermediate value theorem for linear orders
- the Hasse graph of a linear order is acyclic
- a path graph is locally finite

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 1]
```diff
@@ -35,6 +34,9 @@ variable (α β : Type*)
 
 section Preorder
 
+instance instDecidableCovByOfFintype [Fintype α] [LT α] [DecidableLT α] :
+    DecidableRel (CovBy : α → α → Prop) := by unfold CovBy; infer_instance
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean]:
```suggestion
instance [Fintype α] [LT α] [DecidableLT α] : DecidableRel (CovBy : α → α → Prop) :=
  inferInstanceAs <| DecidableRel fun a b ↦ a < b ∧ ∀ ⦃c : α⦄, a < c → ¬c < b
```
Instance names are usually omitted, and IIUC we should prefer `inferInstanceAs` over tactic mode to create instances

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 2]
```diff
@@ -102,6 +126,19 @@ theorem hasse_preconnected_of_pred [PredOrder α] [IsPredArchimedean α] : (hass
     reflTransGen_of_pred _ (fun c hc => Or.inl <| pred_covBy_of_not_isMin hc.1.not_isMin)
       fun c hc => Or.inr <| pred_covBy_of_not_isMin hc.1.not_isMin
 
+theorem hasse_isAcyclic_of_linear : (hasse α).IsAcyclic := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean]:
```suggestion
theorem isAcyclic_hasse_of_linearOrder : (hasse α).IsAcyclic := by
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 3]
```diff
@@ -117,10 +154,19 @@ theorem pathGraph_preconnected (n : ℕ) : (pathGraph n).Preconnected :=
 theorem pathGraph_connected (n : ℕ) : (pathGraph (n + 1)).Connected :=
   ⟨pathGraph_preconnected _⟩
 
+theorem pathGraph_isAcyclic (n : ℕ) : (pathGraph n).IsAcyclic := hasse_isAcyclic_of_linear _
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean]:
```suggestion
theorem isAcyclic_pathGraph (n : ℕ) : (pathGraph n).IsAcyclic := hasse_isAcyclic_of_linear _
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 4]
```diff
@@ -117,10 +154,19 @@ theorem pathGraph_preconnected (n : ℕ) : (pathGraph n).Preconnected :=
...
+
+theorem pathGraph_isTree (n : ℕ) : (pathGraph (n + 1)).IsTree :=
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean]:
```suggestion
theorem isTree_pathGraph_add_one (n : ℕ) : (pathGraph (n + 1)).IsTree :=
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 5]
```diff
@@ -117,10 +154,19 @@ theorem pathGraph_preconnected (n : ℕ) : (pathGraph n).Preconnected :=
...
+  ⟨pathGraph_connected n, pathGraph_isAcyclic (n + 1)⟩
+
 theorem pathGraph_two_eq_top : pathGraph 2 = ⊤ := by
   ext u v
   fin_cases u <;> fin_cases v <;> simp [pathGraph]
 
+instance instLocallyFinitePathGraph {n : ℕ} : LocallyFinite (pathGraph n) := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean]:
```suggestion
instance {n : ℕ} : LocallyFinite (pathGraph n) := by
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean (hunk 4 above)
Comment (Formalistic03) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean]: Should then pathGraph_connected be renamed as well?

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean]: Yeah (and add a deprecation), I didn't want to suggest it in case it's too much for this PR

**Comment by SnirBroshi** [comment]
The syntax is
```lean
theorem newName ... : ... := by
  ...

@[deprecated (since := "2026-06-19")] alias oldName := newName
```

**Comment by Formalistic03** [comment]
> The syntax is
> 
> ```lean
> theorem newName ... : ... := by
>   ...
> 
> @[deprecated (since := "2026-06-19")] alias oldName := newName
> ```

Thanks! I'm really sorry for all the mess...

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 6]
```diff
@@ -35,6 +34,9 @@ variable (α β : Type*)
 
 section Preorder
 
+instance [Fintype α] [LT α] [DecidableLT α] : DecidableRel (CovBy : α → α → Prop) :=
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean]: Can you move this to `Data/Fintype/Defs.lean`, and also add a `WCovBy` version?

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 7]
```diff
@@ -111,16 +154,27 @@ def pathGraph (n : ℕ) : SimpleGraph (Fin n) :=
...
+theorem isTree_pathGraph_add_one (n : ℕ) : (pathGraph (n + 1)).IsTree :=
+  ⟨connected_pathGraph_add_one n, isAcyclic_pathGraph (n + 1)⟩
 
 theorem pathGraph_two_eq_top : pathGraph 2 = ⊤ := by
   ext u v
   fin_cases u <;> fin_cases v <;> simp [pathGraph]
 
+instance {n : ℕ} : LocallyFinite (pathGraph n) := by
+  unfold pathGraph hasse
+  infer_instance
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean]: If you show that the adjacency relation is decidable you'll get `LocallyFinite` for free
```suggestion
instance (n : ℕ) : DecidableRel <| pathGraph n |>.Adj :=
  fun _ _ ↦ decidable_of_iff' _ pathGraph_adj
```
then you also don't need the `CovBy` instance for this PR, and you can add it in a different PR if you want

File: Mathlib/Combinatorics/SimpleGraph/Circulant.lean [hunk 8]
```diff
@@ -135,11 +135,13 @@ theorem pathGraph_le_cycleGraph {n : ℕ} : pathGraph n ≤ cycleGraph n := by
     | inl h | inr h =>
       simp [Fin.coe_sub_iff_le.mpr (Nat.lt_of_succ_le h.le).le, Nat.eq_sub_of_add_eq' h]
 
-theorem cycleGraph_preconnected {n : ℕ} : (cycleGraph n).Preconnected :=
-  (pathGraph_preconnected n).mono pathGraph_le_cycleGraph
+theorem preconnected_cycleGraph {n : ℕ} : (cycleGraph n).Preconnected :=
+  (preconnected_pathGraph n).mono pathGraph_le_cycleGraph
+@[deprecated (since := "2026-06-19")] alias cycleGraph_preconnected := preconnected_cycleGraph
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Circulant.lean]: Can you add a newline to separate these two?
```suggestion

@[deprecated (since := "2026-06-19")] alias cycleGraph_preconnected := preconnected_cycleGraph
```
Similarly for the other `deprecated` aliases

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean (hunk 7 above)
Comment (Formalistic03) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean]: Thanks, but I opted to keep them and have a general instance for finite Hasse graphs

File: Mathlib/Data/Fintype/Defs.lean [hunk 9]
```diff
@@ -255,6 +255,15 @@ instance decidableLeftInverseFintype [DecidableEq β] [Fintype β] (f : α → 
     Decidable (Function.LeftInverse f g) :=
   inferInstanceAs <| Decidable (∀ x, f (g x) = x)
 
+instance decidableWCovByFintype [Fintype α] [Preorder α] [DecidableLE α] :
+    DecidableRel (WCovBy : α → α → Prop) :=
```
Comment (SnirBroshi) [inline Mathlib/Data/Fintype/Defs.lean]:
```suggestion
instance [Fintype α] [Preorder α] [DecidableLE α] : DecidableRel (WCovBy : α → α → Prop) :=
```

File: Mathlib/Data/Fintype/Defs.lean [hunk 10]
```diff
@@ -255,6 +255,15 @@ instance decidableLeftInverseFintype [DecidableEq β] [Fintype β] (f : α → 
...
+  have := decidableLTOfDecidableLE (α := α)
+  inferInstanceAs <| DecidableRel fun a b ↦ a ≤ b ∧ ∀ ⦃c : α⦄, a < c → ¬c < b
+
+instance decidableCovByFintype [Fintype α] [LT α] [DecidableLT α] :
+    DecidableRel (CovBy : α → α → Prop) :=
```
Comment (SnirBroshi) [inline Mathlib/Data/Fintype/Defs.lean]:
```suggestion
instance [Fintype α] [LT α] [DecidableLT α] : DecidableRel (CovBy : α → α → Prop) :=
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 11]
```diff
@@ -88,20 +90,63 @@ section LinearOrder
 
 variable [LinearOrder α]
 
-theorem hasse_preconnected_of_succ [SuccOrder α] [IsSuccArchimedean α] : (hasse α).Preconnected :=
+/-- A discrete form of the intemediate value theorem – a walk in a linear graph visits all of
+the vertices between its endpoints. -/
+theorem discrete_intermediate_value_theorem {u v : α} (w : (hasse α).Walk u v) :
+    ∀ x : α, u ≤ x ∧ x ≤ v → x ∈ w.support := by
+  intro x hx
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean]:
```suggestion
theorem mem_support_hasse_of_ge_of_le {u v : α} (w : (hasse α).Walk u v) {x : α} (hu : u ≤ x)
    (hv : x ≤ v) : x ∈ w.support := by
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 12]
```diff
@@ -88,20 +90,63 @@ section LinearOrder
...
+  · rw [hv]; exact w.end_mem_support
+  · have ⟨d, hd, _⟩ := w.exists_boundary_dart {y | y ≤ x} hx.left (hv <| le_antisymm hx.right ·)
+    rw [show x = d.fst by grind [not_le, d.adj, hasse, CovBy]]
+    exact w.dart_fst_mem_support_of_mem_darts hd
+
+/-- A discrete form of the intemediate value theorem – a walk in a linear graph visits all of
+the darts between its endpoints, oriented from the walk's start to its end. -/
+theorem discrete_intermediate_value_theorem_darts {u v : α} (w : (hasse α).Walk u v) :
+    ∀ d : (hasse α).Dart, u ≤ d.fst ∧ d.fst < d.snd ∧ d.snd ≤ v → d ∈ w.darts := by
+  intro d ⟨hud, hd, hvd⟩
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean]: This should work for `d.fst ≤ d.snd`, right? Using `d.fst_ne_snd` with `lt_of_le_of_ne`/`lt_of_ne_of_le` to get back to `<`.
```suggestion
theorem mem_darts_hasse_of_ge_of_le_of_le {u v : α} (w : (hasse α).Walk u v) {d : (hasse α).Dart}
    (hu : u ≤ d.fst) (hd : d.fst ≤ d.snd) (hv : d.snd ≤ v) : d ∈ w.darts := by
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 13]
```diff
@@ -111,16 +156,28 @@ def pathGraph (n : ℕ) : SimpleGraph (Fin n) :=
...
-theorem pathGraph_connected (n : ℕ) : (pathGraph (n + 1)).Connected :=
-  ⟨pathGraph_preconnected _⟩
+theorem connected_pathGraph_add_one (n : ℕ) : (pathGraph (n + 1)).Connected :=
+  ⟨preconnected_pathGraph _⟩
+
+@[deprecated (since := "2026-06-19")] alias pathGraph_connected := connected_pathGraph_add_one
+
+theorem isAcyclic_pathGraph (n : ℕ) : (pathGraph n).IsAcyclic := isAcyclic_hasse_of_linearOrder _
+
+theorem isTree_pathGraph_add_one (n : ℕ) : (pathGraph (n + 1)).IsTree :=
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean:169]: Could you add a version without `+1`?
```lean
@[simp]
theorem isTree_pathGraph {n : ℕ} : (pathGraph n).IsTree ↔ n ≠ 0 := by
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 14]
```diff
@@ -88,20 +90,63 @@ section LinearOrder
...
       fun c hc => Or.inr <| pred_covBy_of_not_isMin hc.1.not_isMin
 
+@[deprecated (since := "2026-06-19")]
+alias hasse_preconnected_of_pred := preconnected_hasse_of_predOrder
+
+theorem isAcyclic_hasse_of_linearOrder : (hasse α).IsAcyclic := by
+  rw [isAcyclic_iff_forall_adj_isBridge]
+  intro u v huv
+  wlog hle : u < v with h
+  · rw [show s(u, v) = s(v, u) by simp]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean]:
```suggestion
  · rw [Sym2.eq_swap]
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 15]
```diff
@@ -88,20 +90,63 @@ section LinearOrder
...
   exact
     reflTransGen_of_pred _ (fun c hc => Or.inl <| pred_covBy_of_not_isMin hc.1.not_isMin)
       fun c hc => Or.inr <| pred_covBy_of_not_isMin hc.1.not_isMin
 
+@[deprecated (since := "2026-06-19")]
+alias hasse_preconnected_of_pred := preconnected_hasse_of_predOrder
+
+theorem isAcyclic_hasse_of_linearOrder : (hasse α).IsAcyclic := by
+  rw [isAcyclic_iff_forall_adj_isBridge]
+  intro u v huv
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean]:
```suggestion
  refine isAcyclic_iff_forall_adj_isBridge.mp fun u v huv ↦ ?_
```

**Comment by b-mehta** [comment]
It looks like Snir's comments are outstanding, so I'll put this on awaiting-author

**Comment by SnirBroshi** [comment]
I think that everything was fixed, just not marked as resolved

**Comment by Formalistic03** [comment]
> I think that everything was fixed, just not marked as resolved

Yeah, sorry, I'm new to all this

**Comment by SnirBroshi** [comment]
You can remove the `awaiting-author` tag by commenting:

-awaiting-author

There are more tips in [the contribution guide](https://leanprover-community.github.io/contribute/how-to-contribute.html)

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 16]
```diff
@@ -88,20 +90,61 @@ section LinearOrder
 
 variable [LinearOrder α]
 
-theorem hasse_preconnected_of_succ [SuccOrder α] [IsSuccArchimedean α] : (hasse α).Preconnected :=
+/-- A discrete form of the intemediate value theorem – a walk in a linear graph visits all of
```
Comment (Multramate) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean:93]: As well as the other one below:
```suggestion
/-- A discrete form of the intermediate value theorem – a walk in a linear graph visits all of
```
